US07122545B2
A mixture of 0.15 g 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-benzo[b]thiophen-3-yl-2-oxo-ethyl)-amide and 0.43 g ammonium triflouroacetate was melted at 210° C. for 30 minutes and, after cooling to room temperature, suspended in water. Extraction with dichloromethane and chromatography on silicagel with ethylacetate/hexane 1:1 gave 0.10 g (69%) 2-(5-benzo[b]thiophen-3-yl-1H-imidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole as yellow solid; M.p.: 161–162° C.; MS (ISP): m/e=449 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid (2-benzo[b]thiophen-3-yl-2-oxo-ethyl)-amide | 0.15 g | S1C2=C(C(=C1)C(CNC(=O)C=1SC3=C(N1)C(=CC=C3N3CCOCC3)OC)=O)C=CC=C2 | C23H21N3O4S2
reactant | ammonium triflouroacetate | 0.43 g | FC(C(=O)[O-])(F)F.[NH4+]
solvent | water | O | H2O
product | 2-(5-benzo[b]thiophen-3-yl-1H-imidazol-2-yl)-4-methoxy-7-morpholin-4-yl-benzothiazole | 0.10 g, 69% | S1C2=C(C(=C1)C1=CN=C(N1)C=1SC3=C(N1)C(=CC=C3N3CCOCC3)OC)C=CC=C2 | C23H20N4O2S2
